US06121182
Under nitrogen atmosphere, 24.5 ml of 1.63 M hexane solution of n-butyllithium (40 mmol) was dripped down at -78° C. into 90 ml of a diethyl ether suspension of 9.37 g (40.0 mmol) of 2-i-propyl-7-phenylindene and 0.1 g (1.0 mmol) of copper (I) cyanide. After completion of the dripping, the temperature was slowly elevated to room temperature and the mixture was stirred at room temperature for 2 hours. Again, the mixture was cooled down to -78° C. and 2.58 g (20.0 mmol) of dimethyldichlorosilane was added thereto slowly. After completion of the dripping, the temperature was slowly elevated to room temperature, and the mixture was stirred for 7 hours. The reaction mixture was poured into aqueous saturated ammonium chloride solution and extracted with diethyl ether. After it was washed with saturated saline, the organic phase was dried over anhydrous magnesium sulfate, followed by distilling off the solvent to obtain viscous solids. The solids were fractionated by column chromatography (silica gel, development solvent: n-hexane) to obtain 9.69 g (18.5 mmol, yield: 92.5%) of dimethylbis(2-i-propyl-4-phenylindenyl)silane. By 1H-NMR, this was confirmed to be a mixture of two isomers.

reactant | n-butyllithium | 40 mmol | C(CCC)[Li]
reactant | 2-i-propyl-7-phenylindene | 40.0 mmol, 9.37 g | C(C)(C)C=1CC2=C(C=CC=C2C1)C1=CC=CC=C1 | C18H18
reactant | dimethyldichlorosilane | 20.0 mmol, 2.58 g | C[Si](Cl)(Cl)C | C2H6Cl2Si
reactant | ammonium chloride | [Cl-].[NH4+]
catalyst | copper (I) cyanide | 1.0 mmol, 0.1 g | [Cu]C#N
solvent | n-hexane | CCCCCC | C6H14
solvent | diethyl ether | 90 ml | C(C)OCC | C4H10O
solvent | hexane | 1.63 M, 24.5 ml | CCCCCC | C6H14
product | dimethylbis(2-i-propyl-4-phenylindenyl)silane | 18.5 mmol, 9.69 g, yield: 92.5% | C[Si](C1C(=CC2=C(C=CC=C12)C1=CC=CC=C1)C(C)C)(C1C(=CC2=C(C=CC=C12)C1=CC=CC=C1)C(C)C)C | C38H40Si
